US04470986
2-Aminomethyl-5-(4-methoxycarbonylbutyl)pyridine (0.20 g) is heated at 90° in 0.6 ml of formic acid for 18 hours. The mixture is cooled to 0°, made basic with saturated ammonium hydroxide solution and extracted with methylene chloride (4×15 ml). Drying, filtration and evaporation of the extracts yields 2-(N-formylaminomethyl)-5-(4-methoxycarbonylbutyl)pyridine as an oil (IR 1720, 1675 cm-1) which is redissolved in 1 ml of toluene and heated at 90° for 18 hours with phosphorus oxychloride (0.166 g). Evaporation of excess phosphorus oxychloride with toluene, basification at 0° with saturated ammonium hydroxide solution, extraction with methylene chloride (4×15 ml) and drying over sodium sulfate yields an oil which is chromatographed (silica gel, ethyl acetate) to yield 6-(4-methoxycarbonylbutyl)-imidazo[1,5-a]pyridine; Rf=0.26; NMR (CDCl3) 3.58 (s, 3H), 6.45 (d, 1H), 7.25 (d, 1H), 7.38 (s, 1H), 7.62 (s, 1H), 7.94 (s, 1H); IR (CH2Cl2) 1730 cm-1.

reactant | 2-Aminomethyl-5-(4-methoxycarbonylbutyl)pyridine | 0.20 g | NCC1=NC=C(C=C1)CCCCC(=O)OC | C12H18N2O2
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | formic acid | 0.6 ml | C(=O)O | CH2O2
product | 2-(N-formylaminomethyl)-5-(4-methoxycarbonylbutyl)pyridine | C(=O)NCC1=NC=C(C=C1)CCCCC(=O)OC | C13H18N2O3
